US09108969B2
Step B: Preparation of (4-Isopropoxy-3-(trifluoromethyl)phenyl)methanol
To a cooled (−78° C.) solution of 4-isopropoxy-3-(trifluoromethyl)benzoate (13.1 mmol) in DCM (85 mL) under nitrogen was added 2.0 M solution of LAH (19.0 mmol) by a syringe. The reaction was allowed to return to room temperature and stirred for 16 h. The reaction was cooled to 0° C. and quenched with water (0.95 mL) and 10% NaOH (aq) (1.90 mL). The mixture was filtered through Celite®. The filtrate was concentrated under vacuum to give the title compound as an oil (11.27 mmol). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.27 (d, J=6.06 Hz, 6H), 4.46 (d, J=5.81 Hz, 2H), 4.75 (septet, J=6.02 Hz, 1H), 5.20 (t, J=5.75 Hz, 1H), 7.23 (d, J=8.46 Hz, 1H), 7.47-7.56 (m, 2H).

reactant | 4-isopropoxy-3-(trifluoromethyl)benzoate | 13.1 mmol | C(C)(C)OC1=C(C=C(C(=O)[O-])C=C1)C(F)(F)F
reactant | LAH | 19.0 mmol | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | DCM | 85 mL | C(Cl)Cl | CH2Cl2
product | (4-Isopropoxy-3-(trifluoromethyl)phenyl)methanol | 11.27 mmol | C(C)(C)OC1=C(C=C(C=C1)CO)C(F)(F)F | C11H13F3O2
